US06248740B1
Production of ethyl 2-[3-chloro-6-[3-[4-(diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate 0.5 fumarate
334 mg of 4-(diphenylmethoxy)-1-piperidinepropanol was dissolved in 20 ml of N,N-dimethylformamide; 45 mg of a 60% dispersion of sodium hydride in mineral oil was added, followed by stirring at room temperature under reduced pressure for 35 minutes. 310 mg of ethyl 2-[3,6-dichloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate was then added, followed by stirring at 0° C. for 2 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected; the crystal precipitated was dissolved in 5 ml of ethanol; 160 mg of fumaric acid was added, followed by concentration under reduced pressure. Ethyl acetate was added to the residue; the mixture was washed with aqueous sodium bicarbonate and saturated saline, dried with magnesium sulfate and concentrated under reduced pressure. Ethyl acetate was added to the residue to cause crystallization; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 168 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanol | 334 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCO)C1=CC=CC=C1 | C21H27NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 2-[3,6-dichloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 310 mg | ClC1=C(N=C2N1N=C(C=C2)Cl)C(C(=O)OCC)(C)C | C12H13Cl2N3O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[3-chloro-6-[3-[4-(diphenylmethoxy)piperidino]propoxy]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 168 mg | ClC1=C(N=C2N1N=C(C=C2)OCCCN2CCC(CC2)OC(C2=CC=CC=C2)C2=CC=CC=C2)C(C(=O)OCC)(C)C | C33H39ClN4O4
